US07601751B2
Step J (1): To a solution of methyl 2-(5-bromo-2-(tert-butylcarbamoyl)-1H-indol-3-yl)acetate (124 mg, 0.34 mmol) in toluene was added POCl3 (182 mg, 1.19 mmol). The mixture was stirred at 80° C. for 6 h. The solvent was removed. The product was isolated by flash chromatography to give 50 mg of methyl 2-(5-bromo-2-cyano-1H-indol-3-yl)acetate (yield 50.2%). MS (ESI) (M+H)+=295.03. 1H NMR (500 MHz, CDCl3) δ ppm 3.77 (s, 3 H) 3.89 (s, 2 H) 7.11 (d, J=8.85 Hz, 1 H) 7.36 (dd, J=8.85, 1.83 Hz, 1 H) 7.72 (d, J=1.83 Hz, 1 H) 9.00 (s, 1 H).

reactant | methyl 2-(5-bromo-2-(tert-butylcarbamoyl)-1H-indol-3-yl)acetate | 0.34 mmol, 124 mg | BrC=1C=C2C(=C(NC2=CC1)C(NC(C)(C)C)=O)CC(=O)OC | C16H19BrN2O3
reactant | POCl3 | 1.19 mmol, 182 mg | O=P(Cl)(Cl)Cl | Cl3OP
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | methyl 2-(5-bromo-2-cyano-1H-indol-3-yl)acetate | 50 mg, yield 50.2% | BrC=1C=C2C(=C(NC2=CC1)C#N)CC(=O)OC | C12H9BrN2O2
